*$
* INA122
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA122
* Date: 27JAN2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS069
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* Updated PSpice symbol
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* CONNECTIONS: NON-INVERTING INPUT
*              |   INVERTING INPUT
*              |   |   POSITIVE POWER SUPPLY
*              |   |   |   NEGATIVE POWER SUPPLY
*              |   |   |   |   OUTPUT
*              |   |   |   |   |   REFERENCE
*              |   |   |   |   |   |    GAIN SENSE 1
*              |   |   |   |   |   |    |   GAIN SENSE 2
*              |   |   |   |   |   |    |   |
.SUBCKT INA122 INP INN VDD VEE OUT REF  RG1 RG2 
*****************************************************************************
* Models
.MODEL DX D (IS=800.00E-18)
.MODEL QX PNP (IS=800.00E-18 BF=200)
.MODEL QX1 PNP (IS=800.00E-18 BF=200)
.MODEL QX2 PNP (IS=800.0000E-18 BF=200)
*****************************************************************************
* Components
C1I 11I 12I 5.7735E-12
C1O 11O 12O 4.3301E-12
C2I 6I 7I 20.000E-12
C2O 6O 7O 15.000E-12
CEEI 10I 99I 20.000E-12
CEEO 10O 99O 15.000E-12
D11 INN VDD DX 
D12 VEE INN DX 
D21 INP VDD DX 
D22 VEE INP DX 
DCI 5I 53I DX
DCO 5O 53O DX
DEI 54I 5I DX
DEO 54O 5O DX
DLNI 92I 90I DX
DLNO 92O 90O DX
DLPI 90I 91I DX
DLPO 90O 91O DX
DPI 4I 3I DX
DPO 4O 3O DX
EGNDI 99I 0 POLY(2) (3I,0) (4I,0) 0 .5 .5
EGNDO 99O 0 POLY(2) (3O,0) (4O,0) 0 .5 .5
FBI 7I 99I POLY(5) VBI VCI VEI VLPI VLNI 0 1.5915E9 -1E9 1E9 1E9 -1E9
FBO 7O 99O POLY(5) VBO VCO VEO VLPO VLNO 0 7.0736E9 -7E9 7E9 7E9 -7E9
GAI 6I 0 11I 12I 25.133E-6
GAO 6O 0 11O 12O 28.274E-6
GCMI 0 6I 10I 99I 251.33E-12
GCMO 0 6O 10O 99O 282.74E-12
HLIMI 90I 0 VLIMI 1K
HLIMO 90O 0 VLIMO 1K
I1 VDD 2 2U
I2 VDD 3 2U
IEEI 3I 10I DC 2.0100E-6
IEEO 3O 10O DC 1.5100E-6
Q1 VEE INN 2 QX 
Q1I 11I 2I 13I QX1
Q1O 11O 2O 13O QX1
Q2 VEE INP 3 QX 
Q2I 12I 1I 14I QX2
Q2O 12O 1O 14O QX2
R1 REF RG1 100K 
R2 RG1 1 25K 
R2I 6I 9I 100.00E3
R2O 6O 9O 100.00E3
R3 1 RG2 25K 
R4 RG2 OUT 100K 
RC1I 4I 11I 39.789E3
RC1O 4O 11O 35.368E3
RC2I 4I 12I 39.789E3
RC2O 4O 12O 35.368E3
RE1I 13I 10I 13.855E3
RE1O 13O 10O 876.34
RE2I 14I 10I 13.855E3
RE2O 14O 10O 876.34
REEI 10I 99I 99.502E6
REEO 10O 99O 132.45E6
RO1I 8I 5I 50
RO1O 8O 5O 50
RO2I 7I 99I 25
RO2O 7O 99O 25
RPI 3I 4I 517.29E3
RPO 3O 4O 512.86E3
RX1 1I 2 1E-3 
RX2 2I RG1 1E-3 
RX3 3I VDD 1E-3 
RX4 4I VEE 1E-3 
RX5 5I 1 1E-3 
RX6 1O 3 1E-3 
RX7 2O RG2 1E-3 
RX8 3O VDD 1E-3 
RX9 4O VEE 1E-3 
RX10 5O OUT 1E-3 
VBI 9I 0 DC 0
VBO 9O 0 DC 0
VCI 3I 53I DC .84884
VCO 3O 53O DC .84884
VEI 54I 4I DC .84884
VEO 54O 4O DC .84884
VLIMI 7I 8I DC 0
VLIMO 7O 8O DC 0
VLNI 0 92I DC 3
VLNO 0 92O DC 3
VLPI 91I 0 DC 3
VLPO 91O 0 DC 3
.ENDS INA122
*
